US04628057
(3RS)-2-[(Phenethylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as descsribed in Example 32, (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (3.24 g), KOH (1.75 g), carbon disulfide (0.91 ml), dimethylsulfoxide (20 ml), water (5 ml) and phenethyl bromide (3.33 g) are reacted and treated. The product is crystallized from chloroform to give the title compound (2.77 g), m.p. 89°-90° C.

reactant | (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 3.24 g | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | KOH | 1.75 g | [OH-].[K+]
reactant | carbon disulfide | 0.91 ml | C(=S)=S | CS2
reactant | phenethyl bromide | 3.33 g | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | water | 5 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | (3RS)-2-[(Phenethylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 2.77 g | C(CC1=CC=CC=C1)SC(=S)N1CC=2NC3=CC=CC=C3C2CC1C(=O)O | C21H20N2O2S2
